US07842324B2
2-(4-Bromophenyl)-2-methylpropanoic acid (5.71 g, 23.5 mmol) was dissolved in DME (140 mL) and water (35 mL) and pyrimidin-5-ylboronic acid (2.92 g, 23.5 mmol) and potassium carbonate (11.4 g, 82.2 mmol) were added to the solution. The mixture was degassed using an argon stream, and Pd(PPh3)4 (1.35 g, 1.17 mmol) was added. The mixture was heated (80° C.) under argon overnight then cooled to room temperature. The solution was diluted with 1M NaOH (20 mL) and washed with EtOAc. The aqueous phase was acidified with 6N aq. HCl to pH 4-5 and extracted with EtOAc (3×). The combined extract was successively washed with water and brine, dried over MgSO4, filtered and evaporated to yield 4.2 g (74%) of the crude 2-Methyl-2-(4-(pyrimidin-5-yl)phenyl)propanoic acid (MS+H, 243) that was used in the next step without further purification.

reactant | 2-(4-Bromophenyl)-2-methylpropanoic acid | 23.5 mmol, 5.71 g | BrC1=CC=C(C=C1)C(C(=O)O)(C)C | C10H11BrO2
reactant | water | 35 mL | O | H2O
reactant | pyrimidin-5-ylboronic acid | 23.5 mmol, 2.92 g | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | potassium carbonate | 82.2 mmol, 11.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 140 mL | COCCOC | C4H10O2
solvent | NaOH | 1M, 20 mL | [OH-].[Na+]
catalyst | Pd(PPh3)4 | 1.17 mmol, 1.35 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Methyl-2-(4-(pyrimidin-5-yl)phenyl)propanoic acid | 4.2 g, 74% | CC(C(=O)O)(C)C1=CC=C(C=C1)C=1C=NC=NC1 | C14H14N2O2
